US09145407B2
4-[2-(2-Aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-N-(ethoxymethyl)-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide
To a solution of 5-chloro-N-(ethoxymethyl)-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide (Preparation 14, 75 mg, 0.20 mmol) in dimethylsulfoxide (1 mL) was added 2-(2-aminopyridin-4-yl)-4-chlorophenol (Preparation 13, 43.3 mg, 0.20 mmol) and potassium carbonate (40.7 mg, 0.30 mmol). The reaction mixture was stirred at 50° C. for 19 hours, then diluted with ethyl acetate (30 mL) and washed with 1N aqueous sodium hydroxide solution, water and brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (50% hexanes in ethyl acetate to 100% ethyl acetate gradient elution) to afford the title compound as a white solid (68 mg).

reactant | 5-chloro-N-(ethoxymethyl)-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide | 0.20 mmol, 75 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=C(C=N1)F)COCC)F)F | C13H11ClF3N3O3S
reactant | 2-(2-aminopyridin-4-yl)-4-chlorophenol | 0.20 mmol, 43.3 mg | NC1=NC=CC(=C1)C1=C(C=CC(=C1)Cl)O | C11H9ClN2O
reactant | potassium carbonate | 0.30 mmol, 40.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2-Aminopyridin-4-yl)-4-chlorophenoxy]-5-chloro-N-(ethoxymethyl)-2-fluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide | 68 mg | NC1=NC=CC(=C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)N(C2=NC=C(C=N2)F)COCC)F)C=CC(=C1)Cl | C24H19Cl2F2N5O4S
